US07582771B2
Trifluoroacetic anhydride (2.02 kg, 9.64 mol) is added to a cold (0-5° C.), stirred solution of 4-chloro-2-iodoaniline (2.37 kg, 8.76 mol), triethylamine (1.11 kg, 11.0 mol), and toluene (7.8 L) at a rate that maintains the reaction temperature below 20° C. The reaction mixture is stirred for 30 min. Methanol (100 mL) is added to the reaction mixture to consume excess trifluoroacetic anhydride. The mixture is washed with water (5.5 L) and concentrated under reduced pressure to a volume of 5-6 L. The mixture is diluted with ethanol (4 L) and concentrated under reduced pressure to a volume of 5-6 L. The mixture is diluted with ethanol (4 L). Water (10 L) is added to the stirred mixture over 1 hour. The mixture is cooled (0-5° C.) and the solid is collected by filtration and dried to give N-(4-Chloro-2-iodophenyl)-2,2,2-trifluoroacetamide (2.78 kg, 82%, 99.25% purity, largest single impurity 0.75%). 1H NMR (CDCl3): δ8.25 (br s, 1H), 8.15 (d, 1H, J=8.7 Hz), 7.83 (d, 1H, J=2.3 Hz, 7.40 (dd, 1H, J=2.3 Hz, 8.7 Hz).

reactant | Trifluoroacetic anhydride | 9.64 mol, 2.02 kg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-chloro-2-iodoaniline | 8.76 mol, 2.37 kg | ClC1=CC(=C(N)C=C1)I | C6H5ClIN
reactant | triethylamine | 11.0 mol, 1.11 kg | C(C)N(CC)CC | C6H15N
reactant | toluene | 7.8 L | C1(=CC=CC=C1)C | C7H8
solvent | Methanol | 100 mL | CO | CH4O
product | N-(4-Chloro-2-iodophenyl)-2,2,2-trifluoroacetamide | 2.78 kg | ClC1=CC(=C(C=C1)NC(C(F)(F)F)=O)I | C8H4ClF3INO
